US04820715
1-Allyloxy-4-amino-N-(1-azabicyclo[2.2.2]oct-3-yl)-5-chlorobenzamide
4-Amino-N-(1-azabicyclo[2.2.2]oct-3-yl)-5-chloro-2-hydroxybenzamide (444 mg) was added to a suspension of sodium hydride (66 mg of a 60% oil emulsion, washed with pentane) in DMF (10 mL). When the evolution of hydrogen ceased, the solution was treated with allyl bromide (195 mg) for 1 hour. The solution was diluted with ethyl acetate and the volume of solvent mixture consisting of acetonitrile, methanol and ammonium hydroxide in the ratio of 100:15:0.5, and flash chromatographed over silica gel eluting with the same solvent system. The appropriate fractions were combined and concentrated. The solid obtained was collected by filtration and dried under vacuum to yield 0.230 g (46%) of the title compound, m.p. 220° C.

reactant | 4-Amino-N-(1-azabicyclo[2.2.2]oct-3-yl)-5-chloro-2-hydroxybenzamide | 444 mg | NC1=CC(=C(C(=O)NC2CN3CCC2CC3)C=C1Cl)O | C14H18ClN3O2
reactant | sodium hydride | [H-].[Na+]
product | 1-Allyloxy-4-amino-N-(1-azabicyclo[2.2.2]oct-3-yl)-5-chlorobenzamide | 0.230 g, 46% | C(C=C)OC1(C(=O)NC2CN3CCC2CC3)CC=C(C(=C1)Cl)N | C17H24ClN3O2
